US06642229B2
To a degassed solution of 1-(2-tributylstannylphenyl)-1H-[1,2,4]triazole (300 mg, 0.7 mmol) in N,N-dimethylformamide (5 ml) was added 1,3-dibromobenzene (0.17 ml, 1.4 mmol), tetrakis(triphenylphosphine)palladium(0) (40 mg, 35 μmol), lithium chloride (293 mg, 6.9 mmol), then copper(I) iodide (13 mg, 69 μmol), and the mixture was heated at 80° C. for 5 h. The reaction was cooled to ambient temperature then poured into water (20 ml) and extracted with dichloromethane (3×20 ml). The combined organic phases were dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. Purification by chromatography on silica gel eluting with dichloromethane on a gradient of methanol (0-1%), then by preparative thin-layer chromatography on silica gel using 5% methanol in dichloromethane as eluent, gave 1-(3′-bromobiphenyl-2-yl)-1H-[1,2,4]triazole as a colourless gel: m/z (ES+) 300, 302 (M++H).

reactant | 1-(2-tributylstannylphenyl)-1H-[1,2,4]triazole | 0.7 mmol, 300 mg | C(CCC)[Sn](C1=C(C=CC=C1)N1N=CN=C1)(CCCC)CCCC
reactant | 1,3-dibromobenzene | 1.4 mmol, 0.17 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | lithium chloride | 6.9 mmol, 293 mg | [Cl-].[Li+]
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 μmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 69 μmol, 13 mg | [Cu]I
product | 1-(3′-bromobiphenyl-2-yl)-1H-[1,2,4]triazole | BrC=1C=C(C=CC1)C1=C(C=CC=C1)N1N=CN=C1 | C14H10BrN3
